US08258160B2
A mixture of N-benzyl-5-cyano-3-methylthiophene-2-carboxamide (0.80 g, 3.12 mmol) and hydrazine monohydrate (8.00 mL, 164.9 mmol) in ethanol was stirred at reflux for 18 h. The reaction mixture was allowed to cool to ambient temperature, and concentrated in vacuo. The residue was triturated with ethyl acetate to afford N-benzyl-5-(hydrazinyl(imino)methyl)-3-methylthiophene-2-carboxamide as a light yellow solid (0.65 g, 72%): MS (ES+) m/z 289.2 (M+1).

reactant | N-benzyl-5-cyano-3-methylthiophene-2-carboxamide | 3.12 mmol, 0.80 g | C(C1=CC=CC=C1)NC(=O)C=1SC(=CC1C)C#N | C14H12N2OS
reactant | hydrazine monohydrate | 164.9 mmol, 8.00 mL | O.NN
solvent | ethanol | C(C)O | C2H6O
product | N-benzyl-5-(hydrazinyl(imino)methyl)-3-methylthiophene-2-carboxamide | 0.65 g, 72% | C(C1=CC=CC=C1)NC(=O)C=1SC(=CC1C)C(=N)NN | C14H16N4OS
